US06706663B2
Preparation of 3-(3,5-Dimethylpyrazol-1-yl)-5-nitro-1,2-benzisothiazole
A mixture of 3-chloro-5-nitrobenzisothiazole (5.3 g, mmol), 3,5-dimethylpyrazole (2.40 g, 25.0 mmol) and pyridine is stirred overnight at reflux, cooled to room temperature and diluted with ethyl acetate. The resultant mixture is filtered and the filtrate is washed with three portions of 10% hydrochloric acid and one portion of water. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo to afford the title compound (2.85 g, 43.8%) which is identified by NMR spectral analysis.

reactant | 3-chloro-5-nitrobenzisothiazole | 5.3 g | ClC1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | 3,5-dimethylpyrazole | 25.0 mmol, 2.40 g | CC1=NNC(=C1)C | C5H8N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-Dimethylpyrazol-1-yl)-5-nitro-1,2-benzisothiazole | 2.85 g, 43.8% | CC1=NN(C(=C1)C)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C12H10N4O2S
